US06407136B1
A solution of 4′-methylacetophenone (10 g, 74.5 mmol) and dichloromethane (200 mL) was treated dropwise with boron trifluoroetherate (12.5 mL, 104 mmol) at room temperature. To the resulting solution was added 1,3-propanedithiol (7.45 mL, 74.5 mmol) and the reaction mixture was stirred for 4 h at room temperature. The reaction was quenched carefully with saturated NaHCO3 solution and extracted with dichloromethane. The organic layer was separated and evaporated in vacuo. The residue was dissolved in ethyl acetate and washed with 1 N NaOH, water, and saturated NaCl solution. The organic layer was separated, dried with MgSO4, filtered and solvent evaporated in vacuo to yield a crude oil. Purification of the crude oil via flash chromatography (50% CH2Cl2/hexane) afforded crystalline 4′-methylacetophenone propylene thioketal.

reactant | 4′-methylacetophenone | 74.5 mmol, 10 g | CC1=CC=C(C=C1)C(C)=O | C9H10O
reactant | boron | 104 mmol, 12.5 mL | [B] | B
reactant | 1,3-propanedithiol | 74.5 mmol, 7.45 mL | C(CCS)S | C3H8S2
reactant | dichloromethane | 200 mL | ClCCl | CH2Cl2
product | 4′-methylacetophenone propylene thioketal | C1C(C)SC(C)(C2=CC=C(C=C2)C)O1 | C12H16OS
